US09212192B2
N,N-dibenzyl-4-bromo-2,5-difluoroaniline
To a mixture of 4-bromo-2,5-difluoroaniline (8 g, 39 mmol) and potassium carbonate (16 g, 116 mmol) in acetonitrile (200 mL) was added (bromomethyl)benzene (14.5 g, 85 mmol). After refluxing for 20 hours, the mixture was filtered and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 5/1 petroleum ether/ethyl acetate to give the title compound. MS: 388 (M+H+).

reactant | 4-bromo-2,5-difluoroaniline | 39 mmol, 8 g | BrC1=CC(=C(N)C=C1F)F | C6H4BrF2N
reactant | potassium carbonate | 116 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)benzene | 85 mmol, 14.5 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N,N-dibenzyl-4-bromo-2,5-difluoroaniline | C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)F)Br)F)CC1=CC=CC=C1 | C20H16BrF2N
